US06617336B1
8.3 ml of a 0.1N hydrochloric acid solution are added to a solution of 0.3 g (0.832 mmol) of (+)-2-phenyl-3-methyl-8-(1-(R)-[2-(R)-methylpiperidino]-2-hydroxyethyl)quinoline in 3 ml of methanol. The solvents are evaporated and the salt obtained is dissolved in 10 ml of water. The solution is filtered, frozen with a bath of dry ice in acetone, and lyophilized overnight to provide 0.33 g of (+)-2-phenyl-3-methyl-8-(1-(R)-[2-(R)-methylpiperidino]-2-hydroxyethyl)quinoline hydrochloride in the form of a white solid; M.p.=68° C. (Yield: quantitative)

reactant | hydrochloric acid | 0.1N | Cl | ClH
reactant | (+)-2-phenyl-3-methyl-8-(1-(R)-[2-(R)-methylpiperidino]-2-hydroxyethyl)quinoline | 0.832 mmol, 0.3 g | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)[C@H](CO)N1[C@@H](CCCC1)C | C24H28N2O
solvent | methanol | 3 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | (+)-2-phenyl-3-methyl-8-(1-(R)-[2-(R)-methylpiperidino]-2-hydroxyethyl)quinoline hydrochloride | 0.33 g, Yield: quantitative | Cl.C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)[C@H](CO)N1[C@@H](CCCC1)C | InChI=1S/C24H28N2O.ClH/c1-17-15-20-12-8-13-21(22(16-27)26-14-7-6-9-18(26)2)24(20)25-23(17)19-10-4-3-5-11-19;/h3-5,8,10-13,15,18,22,27H,6-7,9,14,16H2,1-2H3;1H/t18-,22+;/m1./s1
